US06727245B2
A mixture of N-methyl-3′-nitroacetanilide (5.13 g) and 10% palladium carbon (0.6 g) in methanol (50 ml) and 1,4-dioxane (50 ml) and stirred under hydrogen (3 atm) at room temperature for 2 hours. The catalyst was removed by filtration and the solvent was evaporated. The resultant solid was collected and washed with isopropyl ether to give 3′-amino-N-methylacetanilide (4.06 g).

reactant | N-methyl-3′-nitroacetanilide | 5.13 g | CN(C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O | C9H10N2O3
solvent | methanol | 50 ml | CO | CH4O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium carbon | 0.6 g | [C].[Pd]
product | 3′-amino-N-methylacetanilide | 4.06 g | NC=1C=C(N(C(C)=O)C)C=CC1 | C9H12N2O
